Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
allopurinol / Ambien
 
Attending: ___.
 
Chief Complaint:
Vomiting and diarrhea
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS: ___ year old gentleman with 
history of hypertension, renal artery stenosis, PAF, sarcoidosis 
who initially presented to clinic today with diarrhea.

In clinic he noted having diarrhea and vomiting for 10 days 
prior to admission when he was at the airport (ate cheese and 
grapes) with immediate onset vomiting. Since eating those items, 
he has continued to have nausea, intermittent diarrhea (liquidy 
brown but no blood), abdominal discomfort, and vomiting. Denies 
any fevers but has lost at lest 5 pounds. 

He works as a ___ and continues to see patients during 
the daytime but denies any sick contacts. 

In regard to his hypertension, he has been unable to take his 
anti-hypertensive medications due to the nausea/vomiting 
(normally on clonidine, lisinopril, metoprolol, 
triamterene/HCTZ).     
 
In the ED, initial vitals were: 96.7, 64, 193/82, 18, 100% on 
RA.
Labs were notable for H/H 11.9/37.5, LFT's normal except for 
lipase of 98, chemistry was notable for creatinine 2.3 (baseline 
1.6-1.8). 
CT abdomen and pelvis performed which showed "no acute 
intra-abdominal process. No free air or free fluid. Normal 
appendix."
Patient received 1 L normal saline, 4 mg Zofran.
After 1 L normal saline, creatinine improved to 2.1.  

On the floor, patient acknowledges the above history. Notes the 
diarrhea and vomiting have stopped since yesterday. Currently 
feels thirsty and dehydrated, but does believe he can take his 
anti-hypertensives as he is feeling better.  Denies chest pain, 
chest pressure, palpitations, headache, vision changes. 
 
Past Medical History:
-Hypertension
-Renal artery stenosis
-Paroxysmal atrial fibrillation
-Sarcoidosis
 
Social History:
___
Family History:
FAMILY HISTORY:
Mother: ___ at ___ from aneurysm/stroke
Father: ___ at ___: CAD, hypertension.
Brother: Living: hypertension. 
 
Physical Exam:
ADMISSION EXAM
==============
Vital Signs: 97.7, 223/93, 60, 18, 99% on RA.   
General: Alert, oriented in NAD.  
HEENT: Sclerae anicteric, dry mucous membranes, no elevated JVD. 

CV: RRR, systolic murmur appreciated. 
Lungs: Clear to auscultation bilaterally, no wheezes.   
Abdomen: soft, non-tender, non-distended, no rebound or 
guarding, normoactive bowel sounds.  
Ext: Warm, well perused, no lower extremity edema.  
Neuro: moving arms and legs without difficulty.

DISCHARGE EXAM
==============
Vital Signs: Tmax 97.7 BP 100-220s/60-90s HR 40-60s RR 18 ___ on RA 
General: Alert, oriented in NAD.  
HEENT: Sclerae anicteric, dry mucous membranes, no elevated JVD. 

CV: RRR, systolic murmur appreciated. 
Lungs: Clear to auscultation bilaterally, no wheezes.   
Abdomen: Soft, non-tender, non-distended, no rebound or 
guarding, normoactive bowel sounds.  
Ext: Warm, well perused, no lower extremity edema.  
Neuro: Moving arms and legs without difficulty. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:45PM BLOOD WBC-9.0 RBC-3.85* Hgb-11.9* Hct-37.5* 
MCV-97 MCH-30.9 MCHC-31.7* RDW-12.3 RDWSD-44.5 Plt ___
___ 04:45PM BLOOD Neuts-65.4 Lymphs-18.6* Monos-10.4 
Eos-4.0 Baso-0.4 Im ___ AbsNeut-5.89 AbsLymp-1.68 
AbsMono-0.94* AbsEos-0.36 AbsBaso-0.04
___ 04:45PM BLOOD Plt ___
___ 04:45PM BLOOD Glucose-122* UreaN-58* Creat-2.3* Na-133 
K-6.6* Cl-103 HCO3-15* AnGap-22*
___ 04:45PM BLOOD ALT-14 AST-34 AlkPhos-70 TotBili-0.3
___ 04:45PM BLOOD Albumin-4.2

MICRO
=====
___ 12:34 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O VIBRIO (Pending): 

   FECAL CULTURE - R/O YERSINIA (Pending): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Pending): 

IMAGING
=======
___ CT ABDOMEN PELVIS
IMPRESSION: 
1. No acute intra-abdominal process.  No bowel obstruction or 
bowel wall 
thickening.  No free fluid.  Normal caliber appendix with some 
high density material within which may be ingested or 
appendicolith. 

DISCHARGE LABS
==============
___ 07:15AM BLOOD WBC-6.3 RBC-3.39* Hgb-10.5* Hct-33.5* 
MCV-99* MCH-31.0 MCHC-31.3* RDW-12.3 RDWSD-45.2 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-84 UreaN-46* Creat-1.9* Na-138 
K-5.0 Cl-107 HCO3-16* AnGap-20
___ 07:15AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.7
 
Brief Hospital Course:
HOSPIAL COURSE
==============
Dr. ___ is a ___ year old gentleman with history of 
hypertension, renal artery stenosis, paroxysmal atrial 
fibrillation and sarcoidosis who initially presented to clinic 
with diarrhea and vomiting for 10 days. Patient's diarrhea and 
vomiting improved but admission labs were notable for 
hyperkalemia and ___ to Cr 2.1 from baseline 1.7, improved to 
1.9 with IVF. SBP 220s on floor initially in the setting of 
missing his antihypertensives due to nausea/vomiting. His only 
symptoms were facial flushing without visual disturbance, 
headache, chest pain or urinary changes. Upon restarting 
clonidine SBP dropped from 220's to 100-140's. Decreased 
lisinopril dose at discharge to 5mg daily due to ___ and 
hyperkalemia. Patient will follow up within 1 week with PCP.

ACTIVE ISSUES
=============
# Nausea/vomiting/diarrhea: Likely gastroenteritis that is 
resolving as patient has improved symptoms over the past two 
days. ___ be secondary to food (as noticed the symptoms 
immediately after eating) versus infectious process. Sent 
norovirus, c. diff, stool cultures (campylobacter, salmonella, 
shigella), E. coli ___:H7, Yersinia, vibrio, o and p. Resolved 
by time of discharge.

# Hypertension: SBP 223 on floor initially. Likely in the 
setting of missing his antihypertensives in the setting of 
nausea/vomiting. Completely asymptomatic at that blood pressure. 
Restarted clonidine and SBP dropped from 220's to 100-140's, 
also asymptomatic. Restarted all home medications (metoprolol 
succinate, clonidine, triamterene-HCTZ) except for lisinopril 
which was started at half dose (5mg) pending check with PCP.

# ___: Baseline creatinine 1.6-1.8. Cr 2.1 on admission. Likely 
in setting of volume depletion. Improving in setting of fluids 
to 1.9 on discharge. Half dose lisinopril to 5mg until follows 
up with PCP to ensure no ___.

# Hyperkalemia: In setting ___ as well as lisinopril use. IVF 
and improved. Half dose lisinopril to 5mg until follows up with 
PCP to ensure no ___.

# Anemia: Slightly below baseline. 
 
TRANSITIONAL ISSUES
===================
[] Decreased lisinopril dose at discharge from 10mg daily to 5mg 
daily due to ___ and hyperkalemia, to be increased by PCP if 
deemed appropriate
[] Patient with ___ at 9:00 AM appointment with 
PCP, should have BMP checked at that time to ensure ___ has 
resolved and follow electrolytes
# CODE STATUS: Full Code (confirmed)
# CONTACT INFORMATION: ___ (son): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine 0.1 mg PO BID 
2. Febuxostat 10 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Pravastatin 10 mg PO QPM 
6. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY  
2.  CloNIDine 0.1 mg PO BID  
3.  Febuxostat 10 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Pravastatin 10 mg PO QPM  
6.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
- Viral gastroenteritis
Secondary diagnosis
- Acute kidney injury
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,
 
___ were admitted to the hospital because ___ were having 
vomiting and diarrhea causing kidney injury and inability to 
take your blood pressure medications. The vomiting and diarrhea 
improved, and your kidney function improved with IV fluids. Your 
blood pressure normalized after re-starting your home 
medications.
 
We halved your lisinopril from 10mg daily to 5mg daily because 
it can cause kidney damage and high potassium, which ___ had on 
admission. When ___ see your PCP ___ may consider 
putting ___ back on the higher dose and make repeat labs.
 
It was a privilege to care for ___ in the hospital, and we wish 
___ all the best.
 
Sincerely,
 
Your ___ Health Team
 
Followup Instructions:
___